US07569550B2
a) 7-(2-tert-Butoxycarbonylamino-ethylamino)-1-ethyl-6-fluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester
7-Chloro-1-ethyl-6-fluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester (2.20 g, 7.37 mmol) in THF (20 mL) and MeCN (20 mL) was treated with triethylamine (3.07 mL, 22.0 mmol), followed by (2-amino-ethyl)-carbamic acid tert-butyl ester (1.41 g, 8.80 mmol) and the mixture heated to 70° C. After 26 h (2-amino-ethyl)-carbamic acid tert-butyl ester (300 mg, 1.87 mmol) was added. After a further 15 h the heating was stopped and the solvent removed in vacuo. The residue was taken up in ethyl acetate, washed with water, dried filtered, and concentrated in vacuo to give a residue which was purified by chromatography (silica gel, 30-100% ethyl acetate in petroleum ether (b.p. 40-60° C.)) to give the title compound (2.89 g); ESMS m/z 423 [M+H]+.

reactant | 7-Chloro-1-ethyl-6-fluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester | 7.37 mmol, 2.20 g | C(C)OC(=O)C1=CN(C2=NC(=C(C=C2C1=O)F)Cl)CC | C13H12ClFN2O3
reactant | triethylamine | 22.0 mmol, 3.07 mL | C(C)N(CC)CC | C6H15N
reactant | (2-amino-ethyl)-carbamic acid tert-butyl ester | 8.80 mmol, 1.41 g | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | (2-amino-ethyl)-carbamic acid tert-butyl ester | 1.87 mmol, 300 mg | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | MeCN | 20 mL | CC#N | C2H3N
product | 7-(2-tert-Butoxycarbonylamino-ethylamino)-1-ethyl-6-fluoro-4-oxo-1,4-dihydro-[1,8]naphthyridine-3-carboxylic acid ethyl ester | 2.89 g | C(C)OC(=O)C1=CN(C2=NC(=C(C=C2C1=O)F)NCCNC(=O)OC(C)(C)C)CC | C20H27FN4O5
